US03979411
15 g (0.1 mole) of 2-(N-acetylamino)-phenol in 100 ml of dry acetonitrile and 9 g (0.214 mole) of dry sodium fluoride were heated to 75°-80°C while stirring and 15 g (0.11 mole) of perfluoroazapropene were slowly passed into this suspension. After completion of the reaction, the mixture was filtered, the solvent was concentrated and the residue was recrystallized from chloroform. 15 g of 2-trifluoromethylimino-3-acetyl-benzoxazoline were obtained as pale yellow prisms of melting point 140°-143°C. The yield of pure material was 67% of theory.

reactant | 2-(N-acetylamino)-phenol | 0.1 mole, 15 g | C(C)(=O)NC1=C(C=CC=C1)O | C8H9NO2
reactant | sodium fluoride | 0.214 mole, 9 g | [F-].[Na+]
reactant | perfluoroazapropene | 0.11 mole, 15 g | FN=C(C(F)(F)F)F | C2F5N
reactant | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 2-trifluoromethylimino-3-acetyl-benzoxazoline | 15 g | FC(F)(F)N=C1OC2=C(N1C(C)=O)C=CC=C2 | C10H7F3N2O2
